US06984657B1
Borane-THF complex (10 ml) was added dropwise over 20 minutes to a solution of 4-chloro-3-iodobenzoic acid (1.4 g) in THF (25 ml). The reaction mixture was stirred for 2 hours and then cooled (ice bath) and methanol (20 ml) was added cautiously. The solvent was removed and the residue was dissolved in methanol (10 ml) and stirred with aq. 2M sodium hydroxide (10 ml) for 2 hours. Ethyl acetate (50 ml) was added and the mixture was washed with saturated aq. sodium bicarbonate solution (50 ml). The aqueous extracts were washed with ethyl acetate (2×50 ml) and the combined ethyl acetate extracts were washed with water (50 ml) and brine (50 ml) and died. Removal of the solvent gave 4-chloro-3-iodobenzyl alcohol (1.15 g). NMR (CD3SOCD3): d 4.45 (d, 2H), 5.3 (t, 1H), 7.3 (m, 1H), 7.5 (m, 1H), 7.8 (s, 1H).

reactant | 4-chloro-3-iodobenzoic acid | 1.4 g | ClC1=C(C=C(C(=O)O)C=C1)I | C7H4ClIO2
reactant | methanol | 20 ml | CO | CH4O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-chloro-3-iodobenzyl alcohol | 1.15 g | ClC1=C(C=C(CO)C=C1)I | C7H6ClIO
